US08222246B2
f) N-(2-Hydroxy-ethyl)-6-(5-hydroxymethyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
To a stirred solution of 6-(5-hydroxymethyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (0.11 g, 0.32 mmol) in toluene (0.5 mL) was added ethanolamine (0.03 g, 0.39 mmol) and 1,5,7-triazabicyclo[4.4.0]dec-5-ene (0.03 g, 0.17 mmol). The reaction mixture was stirred for 68 h, adsorbed on silica gel and purification by chromatography (silica, dichloromethane:methanol=100:0 to 90:10) afforded the title compound as a white solid (0.10 g, 85%). MS: m/e=370.1 [M+H]+.

reactant | 6-(5-hydroxymethyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.32 mmol, 0.11 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=CC=C1)=O | C18H16N2O5
reactant | ethanolamine | 0.39 mmol, 0.03 g | C(O)CN | C2H7NO
reactant | 1,5,7-triazabicyclo[4.4.0]dec-5-ene | 0.17 mmol, 0.03 g | N12CCCN=C2NCCC1 | C7H13N3
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-Hydroxy-ethyl)-6-(5-hydroxymethyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 0.10 g, 85% | OCCNC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=CC=C1)=O | C19H19N3O5
